US06599925B2
2-{[1-Bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid
The title compound was prepared from ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate (0.988 g, 1.94 mmol), and sodium hydroxide (3.9 mL, 3.9 mmol) in ethanol (15 mL) in substantially the same manner as described in Step 2 of Example 2. Purification by flash chromatography on acid treated (phosphoric acid) silica gel using 10-40% ethyl acetate in hexane as an eluant and subsequent crystallization from acetonitrile furnished the title compound as a light yellow solid (0.504 g), mp 146-147° C. Mass spectrum (+APCl, [M+H]+) m/z 481. 1HNMR (400 MHz, DMSO-d6): δ13.15-13.3 (br s, 1H), 8.45 (d, 1H, J=1.5 Hz), 8.25 (d, 1H, J=9.0 Hz), 8.15 (d, 1H, J=9.5 Hz), 8.0-8.05 (m, 2H), 7.70-7.75 (m, 1H), 7.4-7.5 (m, 3H), 5.05 (s, 2H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.7 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C25H21BrO5.0.30 H2O: Calculated: C, 61.69;H, 4.47; N, 0.00. Found: C, 61.63;H, 4.12; N, 0.07.

reactant | ethyl 2-{[1-bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate | 1.94 mmol, 0.988 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC(=O)OCC | C27H25BrO5
reactant | sodium hydroxide | 3.9 mmol, 3.9 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{[1-Bromo-6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid | 0.504 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=CC=C2)OCC(=O)O | C25H21BrO5
